US06432948B1
Ethyl 2-(2,4-dichloro-3-cyano-5-fluoro-benzoyl)-3-dimethylamino-acrylate
Starting at room temperature, a solution of 1075 g of 2,4-dichloro-3-cyano-5-fluorobenzoyl chloride (about 94% strength, corresponding to 1010.5 g=4.00 mol) in 850 ml of dichloromethane is added dropwise to a solution of 626 g (4.372 mol) of ethyl 3-dimethylamino-acrylate and 591 g (4.572 mol) of ethyl diisopropyl-amine (Hünig's base) in 1060 ml of dichloromethane. In the course of this, the temperature rises to about 50-55° C. (dropwise addition time about 90 minutes). The reaction mixture is subsequently stirred at 50° C. for 2 hours and then employed in the next stage without further working up.

reactant | 2,4-dichloro-3-cyano-5-fluorobenzoyl chloride | 4.00 mol, 1075 g | ClC1=C(C(=O)Cl)C=C(C(=C1C#N)Cl)F | C8HCl3FNO
reactant | ethyl 3-dimethylamino-acrylate | 4.372 mol, 626 g | CN(C=CC(=O)OCC)C | C7H13NO2
reactant | ethyl diisopropyl-amine | 4.572 mol, 591 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 850 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1060 ml | ClCCl | CH2Cl2
product | Ethyl 2-(2,4-dichloro-3-cyano-5-fluoro-benzoyl)-3-dimethylamino-acrylate | ClC1=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C(C(=C1C#N)Cl)F | C15H13Cl2FN2O3
